* D:\AIPIT\High_Altitude_Voltage\Higt.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 SINE(0 220 50) AC 10
D1 N004 G1 D
D2 0 N004 D
D3 N005 G1 D
D4 0 N005 D
V2 N008 S PULSE(0 12 20.6u 100n 100n 16.2u 38.3u)
V3 N011 0 PULSE(0 12 0 100n 100n 16.2u 38.3u)
V4 N013 0 PULSE(0 12 19.1u 100n 100n 16.2u 38.3u)
V5 N006 S1 PULSE(0 12 1.5u 100n 100n 16.2u 38.3u)
L1 N015 N023 100µ Rser=0.05
L2 0 N016 3 Rser=300 Cpar=16p
D5 S G1 D
D6 S1 G1 D
D7 0 S D
D8 0 S1 D
M1 G1 N009 S S MYMOS
M2 G1 N007 S1 S1 MYMOS
M3 S1 N014 0 0 MYMOS
M4 S N012 0 0 MYMOS
R2 G1 N010 47
C2 N010 S 1n
R3 G1 P001 47
R4 S1 P002 47
R5 S P003 47
C3 P003 0 1n
C4 P002 0 1n
C5 P001 S1 1n
R6 G1 0 250
C7 N003 0 680n Rser=2
C20 G1 0 235µ Rser=0.01
R§NTC3 N002 N001 R=0.1 + 10*exp(-time/0.05)
C1 N017 N016 {C_val}
D9 0 N017 D_HV
D10 N017 N024 D_HV
C8 N024 0 {C_val}
C9 N018 N017 {C_val}
D11 N024 N018 D_HV
D12 N018 N025 D_HV
C11 N019 N018 {C_val}
D13 N025 N019 D_HV
D14 N019 N026 D_HV
C12 N026 N025 {C_val}
C13 N020 N019 {C_val}
D15 N026 N020 D_HV
D16 N020 N027 D_HV
C14 N027 N026 {C_val}
C15 N029 0 50n Rser=2
R7 N009 N008 10
R8 N007 N006 10
R9 N012 N011 10
R10 N014 N013 10
D17 N027 N021 D_HV
C16 N021 N020 {C_val}
C17 N028 N027 {C_val}
L5 N005 N004 200m Rser=1
C10 N025 N024 {C_val}
R§NTC1 N003 N002 R=0.1 + 10*exp(-time/0.05)
L3 S1 N015 10µ Rser=0.5
C6 N023 S 336n Rser=0.05
D19 N021 N028 D_HV
D20 N028 N022 D_HV
C19 N022 N021 {C_val}
D21 N022 N029 D_HV
C21 N029 N028 {C_val}
C18 G1 0 200µ
L4 N003 0 200m Rser=1
R1 VOID N029 4.7Meg
C23 0 VOID 220p
.model D D
.lib C:\Users\mrnuo\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\mrnuo\AppData\Local\LTspice\lib\cmp\standard.mos
K1 L1 L2 0.98
.param C_val=4.7n
.options method=gear reltol=0.01 vntol=1m abstol=10u solver=alt gmin=1e-10
.model MYMOS NMOS(Vto=4 Kp=5 Vds=600 Ron=0.57)
.model D_HV D(Is=10n Rs=50 Bv=25000 Ibv=5u Cjo=2p Vj=0.75 M=0.333 TT=15n)
.model D_boot D(Is=1n Rs=0.5 Bv=600 Cjo=5p TT=25n)
.tran 0.25s startup
K2 L4 L5 0.98
.backanno
.end
