* D:\AIPIT\High_Altitude_Voltage\Higt.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N003 0 SINE(0 220 50) AC 10
D1 N005 G1 D_rect
D2 0 N005 D_rect
D3 N006 G1 D_rect
D4 0 N006 D_rect
V2 N009 S PULSE(0 12 0 100n 100n {Ton} 36.7u)
V3 N012 0 PULSE(0 12 18.3u 100n 100n {Ton} 36.7u)
V4 N014 0 PULSE(0 12 0 100n 100n {Ton} 36.7u)
V5 N007 S1 PULSE(0 12 18.3u 100n 100n {Ton} 36.7u)
L1 N016 N026 150µ Rser=0.05
L2 0 N017 9.6m Rser=300 Cpar=16p
D5 S G1 D
D6 S1 G1 D
D7 0 S D
D8 0 S1 D
M1 G1 N010 S S MYMOS
M2 G1 N008 S1 S1 MYMOS
M3 S1 N015 0 0 MYMOS
M4 S N013 0 0 MYMOS
R2 G1 N011 47
C2 N011 S 1n
R3 G1 P001 47
R4 S1 P002 47
R5 S P003 47
C3 P003 0 1n
C4 P002 0 1n
C5 P001 S1 1n
R6 G1 0 250
C7 N004 0 680n Rser=2
C20 G1 0 470µ Rser=0.01
C1 N018 N017 {C_val}
D9 0 N018 D_HV
D10 N018 N027 D_HV
C8 N027 0 {C_val}
C9 N019 N018 {C_val}
D11 N027 N019 D_HV
D12 N019 N028 D_HV
C11 N020 N019 {C_val}
D13 N028 N020 D_HV
D14 N020 N029 D_HV
C12 N029 N028 {C_val}
C13 N021 N020 {C_val}
D15 N029 N021 D_HV
D16 N021 N030 D_HV
C14 N030 N029 {C_val}
C15 N034 0 10n Rser=2
R7 N010 N009 10
R8 N008 N007 10
R9 N013 N012 10
R10 N015 N014 10
D17 N030 N022 D_HV
C16 N022 N021 {C_val}
C17 N031 N030 {C_val}
L5 N006 N005 20m Rser=1
C10 N028 N027 {C_val}
L3 S1 N016 1µ Rser=0.5
C6 N026 S 336n Rser=0.05
D19 N022 N031 D_HV
D20 N031 N023 D_HV
C19 N023 N022 {C_val}
C21 N032 N031 {C_val}
C18 G1 0 470µ
L4 N004 0 20m Rser=1
R1 N035 N034 1Meg
C23 0 N036 1n
R11 N036 ACP 100Meg
R12 ACP 0 10k
S1 0 NC_01 N037 0 MyKey
B2 N037 0 V=if(time > 0.04, 1, 0)
S2 NC_02 NC_03 N001 0 MyKeyVolt
B3 N001 0 V=if(time < 0.02, 1, 0)
D18 N023 N032 D_HV
D22 N032 N024 D_HV
C22 N024 N023 {C_val}
C24 N033 N032 {C_val}
D23 N024 N033 D_HV
D24 N033 N025 D_HV
C25 N025 N024 {C_val}
D25 N025 N034 D_HV
C26 N034 N033 {C_val}
R15 N036 VOID 2Meg
C27 0 N035 22n
C28 0 N036 22n
R16 N036 N035 1Meg
SW1 N004 N003 N002 0 MySwitch
B4 N002 0 V=if(abs(sin(2*pi*50*time)) > (1 - min(time/2, 1)), 1, 0)
.model D D
.lib C:\Users\mrnuo\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\mrnuo\AppData\Local\LTspice\lib\cmp\standard.mos
K1 L1 L2 0.98
.param C_val=10n
.param Ton=16.5u
.options reltol=0.03 vntol=100m abstol=1m chgtol=1e-10 trtol=7 maxstep=1u solver=alt gmin=1e-9
.model MYMOS NMOS(Vto=4 Kp=5 Vds=600 Ron=0.57)
.model D_HV D(Is=10n Rs=50 Bv=25000 Ibv=5u Cjo=100p Vj=0.75 M=0.333 TT=15n Roff=1G)
.model D_rect D(Is=10n Rs=0.1 Cjo=200p Roff=1Meg)
.model MySwitch SW(Ron=0.1 Roff=1Meg Vt=0.5)
.model MyKey SW(Ron=0.1 Roff=1G Vt=0.5)
.model MyKeyVolt SW(Ron=0.1 Roff=1G Vt=0.5)
.tran 4s startup
K2 L4 L5 0.98
.backanno
.end
